Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Losartan / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Rash, swollen hands
 
Major Surgical or Invasive Procedure:
___: Skin biopsy. 

 
History of Present Illness:
___ w h/o HTN, BPH, presents for bilateral wrist and feet 
swelling, rash. Noticed the swelling started on ___. He ate 
very spicy ___ food on ___, felt chills overnight and 
noted the swelling the following day. Noticed the rash about 3 
days ago at ___ ___. The rash is not painful or pruritic. He 
has never had this before. The feet swelling is somewhat painful 
if he walks on them, otherwise not. No new meds. No animal 
bites. No pets. He wonders if it could be due to ___ and 
___ Sichuan cusine he ate on ___, though he has had this 
medication many times before. He does report one past experience 
of eating very spicy food and having chills overnight, but it he 
did not have hand swelling or rash at that time.  
 
No recent travel. No exposure to ticks or woods. From ___, 
moved here ___ years ago. Former smoker ___ years. Social drinker. 
Denies history of hepatitis.  

Saw PCP 3 days ago. Bloodwork done, LDH elevated to 302. TSH 
normal, ___ negative, CBC, LFT's, chem panel all normal. Also 
noted to have a Left Axillary node for which ultrasound was 
scheduled, but later cancelled as the node resolved.  
 
In the ED, initial vitals were:  
100.2 105 150/75 18 100% RA  
Exam notable for  
Diffuse Rash. Rash on ___ legs does not blanch. Swelling of 
wrists, MCP, PIP, ankles bilaterally. Well appearing, lungs 
clear. No adenopathy noted. No meningeal signs.  
Labs showed  
Unremarkable chem, cbc, ua, coags, LFTs  
CRP 82  
LDH 450  
Imaging showed  
___ XR Hands/wrists  
IMPRESSION:  
Minimal degenerative spurring involving the first CMC and 
triscaphe joints bilaterally. No evidence for inflammatory 
arthritis. Diffuse soft tissue swelling within the hands 
bilaterally without subcutaneous gas.  
___ CXR  
IMPRESSION:  
No acute cardiopulmonary abnormality.  
Received  
___ 23:55 PO Acetaminophen 1000 mg  
Transfer VS were  
100.3 86 158/74 16 98% RA  
 
Decision was made to admit to medicine for further management.  
On arrival to the floor, patient reports discomfort in his hands 
and feet, which he describes as painful (___) pins and needles, 
worst when he walks or uses his hands.  
 
Past Medical History:
ALLERGIC RHINITIS  
HYPERTENSION  
LOW HDL  
LUTSS  
-___: hospitalized for bilateral lower extremity rash thought 
to be viral exanthem.
-___: hospitalized due to bilateral hand swelling with 
?Rheumatoid Arthritis
 
Social History:
___
Family History:
No family history of autoimmune disease or rashes.  
Wife died with RA  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: 100.4 125 / 57 105 18 95 ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, no petechiae, 
EOMI, neck supple, JVP not elevated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
SKIN: Coalescing erythematous macules/erythroderma over LEs, 
trunk, UEs, sparing central chest, anterior neck and face. 
Petechiae over LEs, primarly over shins, sparing feet.  
EXT: Bilateral hands and feet with non-pitting edema  

DISCHARGE PHYSICAL EXAM
=======================
Vital Signs: 97.7-98.5, 124-145/68-78, 71-82, ___, 94-97% on 
RA. 
General: Laying in bed comfortably in NAD.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, no oral ulcers. 

CV: Regular rate and rhythm, normal S1 + S2, no murmurs. 
Lungs: Clear to auscultation bilaterally.  
Abdomen: soft, non-tender, non-distended, no rebound or 
guarding. 
SKIN: Morbilliform rash over LEs, receeding from the abdomen. 
Petechiae over LEs, primarly over shins, sparing feet.  
EXT: Bilateral hands and feet swelling are improving. Patient 
now able to make a fist with his left hand but not his right.
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:40PM BLOOD WBC-6.1 RBC-4.46* Hgb-14.2 Hct-41.8 
MCV-94 MCH-31.8 MCHC-34.0 RDW-12.6 RDWSD-43.4 Plt ___
___ 09:40PM BLOOD Neuts-77.4* Lymphs-14.8* Monos-3.3* 
Eos-3.8 Baso-0.2 Im ___ AbsNeut-4.73 AbsLymp-0.90* 
AbsMono-0.20 AbsEos-0.23 AbsBaso-0.01
___ 09:40PM BLOOD Glucose-118* UreaN-22* Creat-1.1 Na-132* 
K-3.8 Cl-97 HCO3-22 AnGap-17
___ 09:40PM BLOOD ALT-16 AST-24 LD(LDH)-450* AlkPhos-58 
TotBili-0.7
___ 09:40PM BLOOD Albumin-3.7 Calcium-7.7* Phos-3.0 Mg-2.5

DISCHARGE LABS
==============
___ 05:05AM BLOOD WBC-7.5 RBC-4.17* Hgb-13.2* Hct-38.5* 
MCV-92 MCH-31.7 MCHC-34.3 RDW-13.2 RDWSD-44.7 Plt ___
___ 07:30AM BLOOD Neuts-87.7* Lymphs-6.6* Monos-2.1* 
Eos-2.9 Baso-0.1 Im ___ AbsNeut-7.19*# AbsLymp-0.54* 
AbsMono-0.17* AbsEos-0.24 AbsBaso-0.01
___ 05:05AM BLOOD Glucose-104* UreaN-17 Creat-0.7 Na-136 
K-4.2 Cl-99 HCO3-23 AnGap-18
___ 05:05AM BLOOD LD(LDH)-330*
___ 05:05AM BLOOD Calcium-8.1* Phos-3.2 Mg-2.7*

RHEUMATOLOGY EVALUATION
=======================
___ 09:40PM BLOOD CRP-82.0*
___ 09:40PM BLOOD IgG-764 IgA-203 IgM-60
___ 09:40PM BLOOD C3-117 C4-33
___ 07:30AM BLOOD Ferritn-508*
___ 07:30AM BLOOD HBsAg-Negative HBsAb-Negative HAV 
Ab-Negative IgM HBc-Negative IgM HAV-Negative
___ 04:25AM BLOOD Smooth-NEGATIVE ANCA-NEGATIVE B
___ 07:30AM BLOOD RheuFac-10
___ 04:25AM BLOOD ___ dsDNA-PND
___ 07:30AM BLOOD HCV Ab-Negative
___ 11:10AM BLOOD SED RATE-Test
___ 10:40AM BLOOD HIV Ab-Negative 

___ 11:10 
SED RATE 
  Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          6                   < OR = 20 mm/h
___  

CYCLIC CITRULLINATED PEPTIDE (CCP) ANTIBODY, IGG 
  Test                          Result              Reference 
Range/Units
CYCLIC CITRULLINATED PEPTIDE  165  H              UNITS
(CCP) AB (IGG)                                     
Reference Range
Negative:            <20
Weak Positive:       ___
Moderate Positive:   40-59
Strong Positive:     >59
 
RNP ANTIBODY 
  Test                          Result              Reference 
Range/Units
RNP ANTIBODY                  <1.0 NEG            <1.0 NEG AI   

URINE STUDIES
=============
___ 12:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 12:20PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:20PM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 07:35AM URINE Hours-RANDOM Creat-198 TotProt-55 
Prot/Cr-0.3*

MICROBIOLOGY
============
___: BLOOD CULTURE X 2: PENDING
___: URINE CULTURE: <10,000 CFU/mL.

IMAGING
=======
___: CHEST X-RAY (PA AND LATERAL)
FINDINGS:  
Mild enlargement of the cardiac silhouette is unchanged. 
Mediastinal and 
hilar contours are normal.  Pulmonary vasculature is not 
engorged. Lungs are clear. No focal consolidation, pleural 
effusion or pneumothorax is 
demonstrated. No acute osseous abnormality is visualized. 
  
IMPRESSION:  
No acute cardiopulmonary abnormality. 

___: HAND (PA, LATERAL, AND OBLIQUE) BILATERAL
IMPRESSION: Minimal degenerative spurring involving the first 
CMC and triscaphe joints bilaterally.  No evidence for 
inflammatory arthritis.  Diffuse soft tissue swelling within the 
hands bilaterally without subcutaneous gas. 

___: SHOULDER ___ VIEWS NON TRUAMA BILATERAL
IMPRESSION: Normal bilateral shoulder radiographs. 

SKIN BIOPSY
===========
1. Skin, right lower leg, biopsy for H&E (1A):
- Patchy vacuolar interface dermatitis and superficial 
perivascular lymphocytic infiltrate with
occasional eosinophils and red blood cell extravasation (see 
note).
2. Skin, anatomic site not specified, direct immunofluorescence:
- No IgG, IgA, or IgM deposits seen.
- Focal scant C3 in superficial capillary wall, non-specific.
- Perivascular fibrinogen.
Note: No vasculitis or features of Still's disease are seen. A 
hypersensitivity reaction, as to a drug or
other trigger, is favored, however a viral exanthem cannot be 
entirely excluded.
 
Brief Hospital Course:
___ with history of hypertension, BPH, presenting with swelling 
of hands and feet and erythematous/petechial rash concerning for 
new inflammatory process. 

# Bilateral Hand Swelling: Patient presented with acute onset 
swelling of the bilateral hands with restriction in motion of 
his hands and wrists. X-rays of the hands and wrists were 
unremarkable. The hands/wrists were non-tender to palpation and 
not warm to palpation. Rheumatology was consulted given concern 
for an inflammatory arthropathy that was occurring. Labs that 
were obtained showed negative hepatitis panel, negative ANCA, 
negative anti-Smooth muscle antibody, normal rheumatoid factor, 
negative ___, normal immunoglobulins, ESR of 6, anti-RNP normal, 
normal complement levels, CRP 82.0, anti-CCP elevated at 165.  

Etiology was thought to be in the setting of an herbal 
supplement that was used when he was eating at a ___ 
restaurant one week prior to presentation. However, after 
discussion with rheumatology, the elevated anti-CCP makes new 
diagnosis of Rheumatoid Arthritis possible.  

He was initially started on naproxen 500 mg PO BID with no 
improvement of symptoms. After discussion with Rheumatology, he 
was started on prednisone 20 mg PO daily. After receiving 
prednisone, his bilateral hand swelling improved dramatically. 
He was discharged on a course of prednisone of 20 mg PO on ___, 
prednisone 15 mg PO daily (on ___, prednisone 10 mg 
PO daily (on ___, prednisone 5 mg PO daily until 
follow up appointment with Rheumatology. 

Labs pending at the time of discharge included dsDNA,. 
   
# Bilateral Lower Extremity Rash: Patient presented with 
bilateral lower extremity rash prior to presenting to the 
hospital. Patient was evaluated by Dermatology who recommended 
biopsy of the lesion. Biopsy showed no evidence of vasculitis or 
feature's of Still's disease seen. "A hypersensitivity reaction, 
as to a drug or other trigger, is favored, however, a viral 
exanthema cannot be entirely excluded." After discussion with 
Dermatology they believed this was likely in the setting of a 
viral process. They recommended topical triamcinolone 0.1% 
ointment BID to trunk up to 14 days.     

# Hypertension: continued on amlodipine 5 mg PO daily.

# BPH: continued tamsulosin 0.4 mg PO QHS.

TRANSITIONAL ISSUES
===================
-will need stitches from skin biopsy of the right lower 
extremity removed on ___. 
-prednisone course: 20 mg PO on ___, prednisone 15 mg PO daily 
(on ___, prednisone 10 mg PO daily (on ___, 
___, prednisone 5 mg PO daily until follow up appointment with 
Rheumatology. 
-labs pending at time of discharge: Labs pending at the time of 
discharge included dsDNA, 
-Can continue with triamcinolone 0.1% ointment with last day 
___. 
-Wound care: Vaseline and bandaid to be changed daily.
-Code Status: Full Code (confirmed)
-Contact Information: ___ (son): Phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. amLODIPine 5 mg PO DAILY 
3. azelastine 137 mcg (0.1 %) nasal BID 

 
Discharge Medications:
1.  PredniSONE 20 mg PO DAILY 
Tapered dose - DOWN 
RX *prednisone 5 mg 1 tablet(s) by mouth as directed in 
discharge paperwork Disp #*25 Tablet Refills:*0 
2.  Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
Duration: 14 Days 
RX *triamcinolone acetonide 0.1 % apply to rash twice a day 
Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  azelastine 137 mcg (0.1 %) nasal BID  
5.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
-Bilateral hand swelling.
-Bilateral lower extremity weakness

SECONDARY DIAGNOSIS
===================
-Hypertension
-BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to 
swelling of your hands and rash in your feet.

In order to evaluate the hand discomfort swelling, you were seen 
by the Rheumatologists. The initial thought for the cause of 
hand swelling was secondary to a herbal supplement that was in 
food you ate. There are still labs that are pending before a 
final determination can be made about your hand swelling. You 
were started on prednisone during the hospitalization which 
significantly improved the hand swelling. Please follow the 
prednisone taper as described below. Please note that you were 
prescribed 5 milligram tablets.

-20 milligrams daily (this represents 4 tablets) on ___.
-15 milligrams daily (this represents 3 tablets daily) on ___, 
___ milligrams daily (this represents 2 tablets daily) on ___, 
___ milligrams daily (this represents 1 tablet daily) until your 
follow up appointment with Rheumatology.

You were also seen by the Dermatologists (skin doctors) to 
evaluate your rash. The biopsy indicated that this was likely a 
viral process that may have caused the rash. This improved on 
triamcinolone 0.1% ointment EVERY 12 hours to the affected areas 
(avoid face, skin folds and groin). You can continue this 
medication until ___.

With you skin biopsy, you had sutures placed. Please follow up 
with your primary care physician to have the sutures removed on 
___. 

If you have any side effects from any of the medications, please 
contact your primary care physician.

It was a pleasure taking care of you during your 
hospitalization. We wish you all the best!

Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___